US08541588B2
tert-butyl [(5-chloro-2-fluoro-4-{2-[3-nitro-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl]-4-(trifluoromethyl)phenoxy}phenyl)sulfonyl]1,3-thiazol-4-ylcarbamate
To a solution of 2-[3-nitro-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl]-4-(trifluoromethyl)phenol (Preparation 868, 28.73 g, 80.41 mmol) in dimethyl sulfoxide (175 mL) was added potassium carbonate (22.3 g, 161 mmol). After stirring for 10 minutes, tert-butyl [(5-chloro-2,4-difluorophenyl)sulfonyl]1,3-thiazol-4-ylcarbamate (Preparation 453, 33.02 g, 80.37 mmol) was added. After stirring for 14 hours at room temperature, additional potassium carbonate (4.7 g, 34 mmol) and tert-butyl [(5-chloro-2,4-difluorophenyl)sulfonyl]1,3-thiazol-4-ylcarbamate (1.25 g, 3.0 mmol) were added and the reaction mixture heated at 45° C. for 7 hours. The mixture was allowed to cool, diluted with ethyl acetate, and washed with water and brine. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated. Purification by manual flash column chromatography using 25% ethyl acetate/hexanes and an 8×46 cm column provided product as a yellow oil (40 g, 70%).

reactant | 2-[3-nitro-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl]-4-(trifluoromethyl)phenol | 80.41 mmol, 28.73 g | [N+](=O)([O-])C1=NN(C=C1C1=C(C=CC(=C1)C(F)(F)F)O)C1OCCCC1 | C15H14F3N3O4
reactant | potassium carbonate | 161 mmol, 22.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl [(5-chloro-2,4-difluorophenyl)sulfonyl]1,3-thiazol-4-ylcarbamate | 80.37 mmol, 33.02 g | ClC=1C(=CC(=C(C1)S(=O)(=O)N(C(OC(C)(C)C)=O)C=1N=CSC1)F)F | C14H13ClF2N2O4S2
reactant | potassium carbonate | 34 mmol, 4.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 175 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tert-butyl [(5-chloro-2,4-difluorophenyl)sulfonyl]1,3-thiazol-4-ylcarbamate | 3.0 mmol, 1.25 g | ClC=1C(=CC(=C(C1)S(=O)(=O)N(C(OC(C)(C)C)=O)C=1N=CSC1)F)F | C14H13ClF2N2O4S2
product | tert-butyl [(5-chloro-2-fluoro-4-{2-[3-nitro-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-4-yl]-4-(trifluoromethyl)phenoxy}phenyl)sulfonyl]1,3-thiazol-4-ylcarbamate | 40 g, 70% | ClC=1C(=CC(=C(C1)S(=O)(=O)N(C(OC(C)(C)C)=O)C=1N=CSC1)F)OC1=C(C=C(C=C1)C(F)(F)F)C=1C(=NN(C1)C1OCCCC1)[N+](=O)[O-] | C29H26ClF4N5O8S2
